US07015218B1
5-Amino-2-[4-(tertbutoxycarbonyl)homopiperazin-1-yl]benzonitrile
Ammonium chloride (5.9 g) and iron powder (32 g) were added to a mixed solvent of water (160 ml) and ethanol (470 ml), and the mixture was heated to 65° C. Then, 5-nitro-2-(4-tert-butoxycarbonylhomopiperazin-1-yl)benzonitrile (56 g) was added in parts over 30 min and the mixture was stirred at a refluxing temperature for 1 h. The reaction mixture was ice-cooled and filtrated. The solvent was evaporated under reduced pressure. To the residue was added aqueous sodium hydroxide solution and the mixture was extracted with toluene. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate, after which the solvent was evaporated under reduced pressure. Diisopropyl ether was added to the residue to allow crystallization. The crystals were recrystallized from a mixed solvent of ethyl acetate-n-hexane to give the title compound (32 g), melting point: 38° C.

reactant | Ammonium chloride | 5.9 g | [Cl-].[NH4+]
reactant | water | 160 ml | O | H2O
reactant | 5-nitro-2-(4-tert-butoxycarbonylhomopiperazin-1-yl)benzonitrile | 56 g | [N+](=O)([O-])C=1C=CC(=C(C#N)C1)N1CCN(CCC1)C(=O)OC(C)(C)C | C17H22N4O4
catalyst | iron | 32 g | [Fe] | Fe
solvent | ethanol | 470 ml | C(C)O | C2H6O
product | 5-Amino-2-[4-(tertbutoxycarbonyl)homopiperazin-1-yl]benzonitrile | 32 g | NC=1C=CC(=C(C#N)C1)N1CCN(CCC1)C(=O)OC(C)(C)C | C17H24N4O2
